US08754089B2
A solution of 2-(1-(3-bromo-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)-ethyl)isoindoline-1,3-dione (0.9386 g, 2.277 mmol), 2-(tributylstannyl)pyridine (1.098 mL, 3.05 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.263 g, 0.228 mmol) in 1,4-dioxane (18.97 mL) was stirred using an overhead stirrer at 110° C. After 20 h, the mixture was cooled to rt and concd under reduced pressure to give a black liquid. The black liquid was purified by column chromatography on a 80 g of Redi-Sep™ column using 0 to 100% gradient of EtOAc in hexane over 25 min and then 100% isocratic of EtOAc for 25 min to give 2-(1-(6-methyl-4-oxo-3-(pyridin-2-yl)-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione as a yellow solid: Mass Spectrum (ESI) m/e=411.1 (M+1).

reactant | 2-(1-(3-bromo-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)-ethyl)isoindoline-1,3-dione | 2.277 mmol, 0.9386 g | BrC1=C(N=C2N(C1=O)C(=CC=C2)C)C(C)N2C(C1=CC=CC=C1C2=O)=O | C19H14BrN3O3
reactant | 2-(tributylstannyl)pyridine | 3.05 mmol, 1.098 mL | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | 1,4-dioxane | 18.97 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.228 mmol, 0.263 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(1-(6-methyl-4-oxo-3-(pyridin-2-yl)-4H-pyrido[1,2-a]pyrimidin-2-yl)ethyl)isoindoline-1,3-dione | CC1=CC=CC=2N1C(C(=C(N2)C(C)N2C(C1=CC=CC=C1C2=O)=O)C2=NC=CC=C2)=O | C24H18N4O3
